US05359065
A dry 500 ml round bottom flask, equipped with a magnetic stirring bar and maintained under static argon atmosphere, was charged with sodium hydride (4.55 g, 113 mmol) in mineral oil (60% by weight) and dry THF (80 ml). To this well-stirred slurry, maintained at 0° C. in an ice bath, was added o-bromothiophenol (18.7 g, 99 mmol). Reaction was rapid with vigorous hydrogen evolution. After 15 min, tert-butyldimethylsilyl chloride dissolved in 35 ml of THF was added dropwise (15 min). The resulting mixture was stirred overnight, and the precipitated sodium chloride was filtered off. Volatile materials were first distilled under atmospheric pressure to provide the crude product (17 g) as a pale yellow oil. This was further purified by vacuum distillation under argon, bp 99°-100° C. (0.4 mm), to furnish o-bromo-(S-tert-butyldimethylsilyl)benzenethiol as a colorless liquid (14.4 g, 48% yield); HPLC: 96% pure. 1H NMR (300 MHz) was consistent with the structure:

reactant | sodium hydride | 113 mmol, 4.55 g | [H-].[Na+]
reactant | o-bromothiophenol | 99 mmol, 18.7 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | hydrogen | [H][H] | H2
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | o-bromo-(S-tert-butyldimethylsilyl)benzenethiol | 14.4 g, 48% yield | BrC1=C(C=CC=C1)S[Si](C)(C)C(C)(C)C | C12H19BrSSi
